* C:\Fran\ITBA\Electronica 2\TPs-E2\Fuente_regulada_V2\Simulación\Fuente regulada.asc
R1 Vo V- 9k
R2 V- Vz 4k7
R3 Vz -Vcc 1k
D3 Vz 0 Z5p6
XU1 0 V- +Vcc -Vcc Comp TL082
V1 0 -Vcc {VCC}
V2 +Vcc 0 {VCC}
RL Vo 0 {X}
Q3 Comp Vb Vo 0 BC547C
R4 Vo N001 1
XU2 +Vcc Comp N001 tip112
R5 N001 Vb 3k3
R6 Vb 0 100k
.model D D
.lib C:\Users\basil\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\basil\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.bjt
.inc TL082.301
.tran 0 1.1 1
* .tran 0 510m 500m
;op 1m
.inc TIP112.SP3
.model Z5p6 D(Is=1.5n Rs=.5 Cjo=185p nbv=3 bv=5.6 Ibv=1m)
.save V(Vo)
.save I(RL)
.save Ix(U1:OUT)
.save Ic(Q3)
.save V(Vb)
.save V(Ve)
.save V(comp)
.save V(V-)
.step param X 1e-18 10 .1
.measure Vo avg V(Vo)
.measure IL avg I(RL)
.measure Ic avg Ic(Q3)
.measure Vbe avg V(Vb,Vo)
.measure Vce avg V(comp,Vo)
.measure Vopamp avg V(comp)
.measure Iopamp avg Ix(U1:OUT)
.measure V- avg V(V-)
.option plotwinsize=0 numdgt=15
.param VCC=18
.lib TIP112.SP3
.backanno
.end
